US05462954
1-(4-(Carboxymethoxy)phenyl)-1-(1H-tetrazol-5-yl)-6-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)hexane
Crude 1-(4-(ethoxycarbonylmethoxy)phenyl)-1-(1H-tetrazol-5-yl)-6-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)hexane (50 mg) was dissolved in ethanol (20 mL). 1M Aqueous sodium carbonate solution was added and the resultant solution stirred at room temperature for 3 hours. The pH of the solution was then adjusted to 2 using 1M hydrochloric acid and the solution extracted 5 times with chloroform. The combined chloroform extracts were dried with magnesium sulfate and evaporated to an oil which was purified on a reverse phase HPLC C18 column eluting with methanol/water (85:15) and 0.1% acetic acid. On removal of the solvent 9.7 mg of the title compound was obtained as a colorless oil. MS, NMR.

reactant | 1-(4-(ethoxycarbonylmethoxy)phenyl)-1-(1H-tetrazol-5-yl)-6-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)hexane | 50 mg | C(C)OC(=O)COC1=CC=C(C=C1)C(CCCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)C1=NN=NN1 | C31H35FN4O5
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(4-(Carboxymethoxy)phenyl)-1-(1H-tetrazol-5-yl)-6-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)hexane | C(=O)(O)COC1=CC=C(C=C1)C(CCCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)C1=NN=NN1 | C29H31FN4O5
